US06162809
20. 2-[[[3-Methyl-2-[(4-pyridinylthio)methyl]-4-pyridinyl]thiopropyl]thio]-1H-benzimidazole
According to the procedure indicated in Example 5, reaction of 4-(3-chloropropylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine with 2-mercaptobenzimidazole in the presence of sodium hydroxide solution gives, after crystallization from dichloromethane/diisopropyl ether, the title compound; m.p. 128-129° C.; yield 83% of theory.

reactant | 4-(3-chloropropylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine | ClCCCSC1=C(C(=NC=C1)CSC1=CC=NC=C1)C | C15H17ClN2S2
reactant | 2-mercaptobenzimidazole | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-[[[3-Methyl-2-[(4-pyridinylthio)methyl]-4-pyridinyl]thiopropyl]thio]-1H-benzimidazole | yield 83% | CC=1C(=NC=CC1SCCCSC1=NC2=C(N1)C=CC=C2)CSC2=CC=NC=C2 | C22H22N4S3
